US06743924B2
(E)-3-(4-(Trifluoromethyl)phenyl)-2-propenamide (4.00 g, 18.59 mmol) and 1,3-dichloroacetone (3.54 g, 27.89 mmol) were added to toluene (14 ml) and the mixture was subjected to refluxing azeotropic dehydration using a Dean-Stark tube for 3 hours. A solution of sulfuric acid (91 mg) in toluene (1 ml) was added at the same temperature and the mixture was further subjected to refluxing azeotropic dehydration for 3.5 hours. The reaction mixture was concentrated under reduced pressure, and THF (20 ml) and tetra(n-butyl) ammonium bromide (428 mg, 1.328 mmol) were added to the residue. 30% Aqueous potassium hydroxide solution (12.42 g, 66.4 mmol) was added dropwise at 20-30° C. and the mixture was stirred at the same temperature for 15 min. 4-[4-(1H-1,2,3-Triazol-1-yl)butyl]phenol (2.89 g, 13.28 mmol) was added and the mixture was refluxed under stirring for 2 hours. Water (13.4 ml) and methanol (20 ml) were added dropwise at the same temperature. After allowing to cool to room temperature and stirring, the mixture was stirred at the same temperature for 1 hour. The precipitated crystals were collected by filtration, washed with cold-methanol (40 ml) and dried under reduced pressure to give 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole (5.35 g, 11.42 mmol, yield 86%).

reactant | (E)-3-(4-(Trifluoromethyl)phenyl)-2-propenamide | 18.59 mmol, 4.00 g | FC(C1=CC=C(C=C1)/C=C/C(=O)N)(F)F | C10H8F3NO
reactant | 1,3-dichloroacetone | 27.89 mmol, 3.54 g | ClCC(=O)CCl | C3H4Cl2O
reactant | potassium hydroxide | 66.4 mmol, 12.42 g | [OH-].[K+]
reactant | 4-[4-(1H-1,2,3-Triazol-1-yl)butyl]phenol | 13.28 mmol, 2.89 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra(n-butyl) ammonium bromide | 1.328 mmol, 428 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | sulfuric acid | 91 mg | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 ml | CO | CH4O
solvent | Water | 13.4 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole | 11.42 mmol, 5.35 g, yield 86% | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O2
